US04910194
To a suspension of 15 g of dry sellaite and 12 g of dry pyridine in 150 ml of methylene chloride is added 7.4 g of chromic anhydride under ice-cooling with stirring and then stirred for 20 minutes. To the mixture is added a solution of 7 g of 4-(2-chlorophenyl)-2-[2(4-hydroxymethylphenyl)ethyl]-6,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine, which was prepared by Example 1, in 20 ml of methylene chloride dropwise with stirring and stirred for an hour. The methylene chloride layer is separated by filtration and the sellaite is well washed with chloroform. The mixture of the washings and the methylene chloride solution is thoroughly washed with water and dried over anhydrous magnesium sulfate. After separating by filtration, the filtrate is concentrated under reduced pressure and the resulting oil is subjected to chromatography on silica gel to give 4 g of 4-(2-chlorophenyl)-2-[2-(4-formylphenyl)ethyl]-6,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine.

reactant | pyridine | 12 g | N1=CC=CC=C1 | C5H5N
reactant | 4-(2-chlorophenyl)-2-[2(4-hydroxymethylphenyl)ethyl]-6,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | 7 g | ClC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(S3)CCC3=CC=C(C=C3)CO)C(=NN2)C)C | C25H23ClN4OS
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-chlorophenyl)-2-[2-(4-formylphenyl)ethyl]-6,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | 4 g | ClC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(S3)CCC3=CC=C(C=C3)C=O)C(=NN2)C)C | C25H21ClN4OS
